US06310070B1
An amidation reaction and post-treatment were carried out according to the conditions of Example 1, using 6.54 g (30.2 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide prepared in Reference Example 2 and, instead of benzoyl chloride, 3,5-dimethylbenzoyl chloride which was separately prepared by a conventional method, to obtain 9.62 g of 1-benzyl-4-(3,5-dimethylbenzoylamino)-5-imidazolecarboxamide (yield 91%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 30.2 mmol, 6.54 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
product | 1-benzyl-4-(3,5-dimethylbenzoylamino)-5-imidazolecarboxamide | 9.62 g, yield 91% | C(C1=CC=CC=C1)N1C=NC(=C1C(=O)N)NC(C1=CC(=CC(=C1)C)C)=O | C20H20N4O2
